US04395371
650 ml of water are introduced into the flask and are heated to 80° to 90° C., and 935 g (4 mols) of 70% strength sodium benzenesulphinate are added to the water. 215 g (4.04 mols) of acrylonitrile and 382 g (1.95 mols) of 50% strength sulphuric acid are then added simultaneously, in the course of about 1 hour at 100° C., at such a rate that the pH value remains at 6 to 7. The mixture is stirred for 30 minutes at 100° C. and the pH value is again readjusted. Excess acrylonitrile is distilled off over a Vigreux column in an azeotropic mixture with water at normal pressure, and 255 g of xylene are then added and the phases are separated at about 95° C. This is carried out by sucking off the lower aqueous phase with a suction tube. The salt precipitate remains for the most part in the flask. 800 ml of washing water is now stirred in at >95° C. and the phases are separated as described above. In this process most of the salt is dissolved, and the remainder does not interfere in the following reaction. A further 17 g of 3-phenylsulphonyl-propionitrile are isolated from the combined aqueous phases. 255 g (300 ml) of xylene are now added to the organic phase in the flask, at 95° to 100° C., and the remaining water is distilled off azeotropically with xylene (boiling point 92° C.) The remaining xylene is completely removed in vacuo at a trough temperature of 100° to 120° C. The trough now contains 730 g (94%) of 3-phenylsulphonyl-propionitrile in 97% purity, and 50 g of salt.

reactant | sodium benzenesulphinate | C1(=CC=CC=C1)S(=O)[O-].[Na+]
reactant | acrylonitrile | 4.04 mols, 215 g | C(C=C)#N | C3H3N
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
solvent | water | 650 ml | O | H2O
product | 3-phenylsulphonyl-propionitrile | 17 g | C1(=CC=CC=C1)S(=O)(=O)CCC#N | C9H9NO2S
